US06180627B2
[(2R)-1-isobutylpyrrolidinyl]methanamine
Lithium aluminum hydride [1.0mol soln. in tetrahydrofuran] (11.52 ml, 11.52 mmol) was added to a solution of (2R)-1-isobutyl-2-pyrrolidinecarboxamide (1.3 g, 7.68 mmol) [see preparation 59] in tetrahydrofuran (5 ml) @0° C. The reaction mixture was stirred for 10 mins and then heated to reflux for 6 hrs. Water (0.5 ml) was added to the cooled mixture followed by sodium hydroxide (1.5 ml) and water (1.5 ml). Tetrahydrofuran (10 ml) was added and the mixture was stirred at room temperature for 1 hr. The aluminum salts were removed by filtration and washed well with diethyl ether. The filtrate was then evaporated under reduced pressure to afford the title compound as a white solid, 705 mg, (58%).

reactant | Lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (2R)-1-isobutyl-2-pyrrolidinecarboxamide | 7.68 mmol, 1.3 g | C(C(C)C)N1[C@H](CCC1)C(=O)N | C9H18N2O
reactant | Water | 0.5 ml | O | H2O
reactant | sodium hydroxide | 1.5 ml | [OH-].[Na+]
reactant | water | 1.5 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | [(2R)-1-isobutylpyrrolidinyl]methanamine | C(C(C)C)N1[C@H](CCC1)CN | C9H20N2
